US07071175B1
2-Amino-5-pyridinecarboxylic acid (25.0 g, 181 mmol) was suspended in ethanol (190 mL) and SOCl2 (15 mL, 206 mmol) was added. The mixture was refluxed for 10 hs and more SOCl2 (16 mL) was added. After 3 days with reflux (and more SOCl2 (10 mL) added each day), the reaction mixture was cooled to room temperature and diethyl ether was added. After 24 h at −20° C. the mixture was filtered. The crude salt was dissolved in methanol (214 mL) and a solution of NaOH (40.0 g, 23.5 mmol) in methanol (90 mL) was added. The reaction mixture was stirred for 1 h and THF (270 mL) was added. The reaction mixture was filtered through a plug of silica (THF/MeOH) and concentrated under reduced pressure to give 6-amino-nicotinic acid ethyl ester (36.2 g, 97%).

reactant | 2-Amino-5-pyridinecarboxylic acid | 181 mmol, 25.0 g | NC1=NC=C(C=C1)C(=O)O | C6H6N2O2
reactant | SOCl2 | 206 mmol, 15 mL | O=S(Cl)Cl | Cl2OS
reactant | SOCl2 | 16 mL | O=S(Cl)Cl | Cl2OS
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NaOH | 23.5 mmol, 40.0 g | [OH-].[Na+]
solvent | ethanol | 190 mL | C(C)O | C2H6O
solvent | methanol | 90 mL | CO | CH4O
solvent | THF | 270 mL | C1CCOC1 | C4H8O
product | 6-amino-nicotinic acid ethyl ester | 36.2 g, 97% | C(C)OC(C1=CN=C(C=C1)N)=O | C8H10N2O2
